* Netlist gerada automaticamente a partir do circuit.json
.tran 1

R5 N001 0 1k
R7 N003 0 3.3k
I1 0 N002 10m
R2 N001 N002 4.7k
R4 N003 0 10k
R1 N004 N001 2.2k
R2 N004 0 2.2k
R3 N002 N003 5.6k

.end